US07595311B2
PREPARATION OF ETHYL 2-(PIPERIDINE-1-CARBONYL)-1,2,3,6-TETRAHYDROAZEPINO[4,5-B]INDOLE-5-CARBOXYLATE
To a suspension of 1,2,3,6-tetrahydroazepino[4,5-b]indole-2,5-dicarboxylic acid 5-ethyl ester (45 mg, 0.15 mmol) in DCM (3 mL) was added CDl (27 mg, 1.1 equiv.). After stirring for 1 hour at 20° C., piperidine (23 μL, 1.5 equiv.) was added. The mixture was stirred overnight at 20° C. and a clear solution was obtained. Evaporation of solvent gave a crude product, which was purified by trituration with MeOH to afford the title compound (22 mg); 1H-NMR (CDCl3): δ 10.44 (1H, br s), 7.95 (1H, d), 7.38 (2H, d), 7.05-7.13 (2H, m), 6.69 (1H, d), 4.29 (2H, q), 3.98 (1H, dd), 3.65-3.73 (2H, m), 3.46 (1H, m), 3.31 (1H, m), 2.71 (1H, dd), 1.58-1.76 (6H, m), 1.36 (3H, t); MS (ES): 368 (MH+).

reactant | 1,2,3,6-tetrahydroazepino[4,5-b]indole-2,5-dicarboxylic acid 5-ethyl ester | 0.15 mmol, 45 mg | C(C)OC(=O)C1=CNC(CC2=C1NC=1C=CC=CC21)C(=O)O | C16H16N2O4
reactant | piperidine | 23 μL, 1.5 equiv. | N1CCCCC1 | C5H11N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | ETHYL 2-(PIPERIDINE-1-CARBONYL)-1,2,3,6-TETRAHYDROAZEPINO[4,5-B]INDOLE-5-CARBOXYLATE | 22 mg | N1(CCCCC1)C(=O)C1CC2=C(NC=3C=CC=CC23)C(=CN1)C(=O)OCC | C21H25N3O3
